US07956188B2
Step 1: Preparation of 3-iodo-6-hydroxyquinoline
To a stirred mixture of 3-bromo-6-hydroxyquinoline (preparation described in Liebigs Ann Chem (1966), 98-106) (1.0 g), sodium iodide (1.34 g) and copper iodide (0.09 g) in dioxane (6.5 ml) was added N,N,N′,N′-tetramethyl-ethane-1,2-diamine (0.1 ml) in a sealed tube. The mixture was stirred at 120° C. for 12 h and upon cooling was treated with aqueous ammonia followed by aqueous hydrochloric acid. Extraction with ethyl acetate, drying of the organic phase over magnesium sulphate, filtration and evaporation under reduced pressure gave the required product (MH+ 272) as a light brown coloured powder that was used as such in the next step.

reactant | 3-bromo-6-hydroxyquinoline | 1.0 g | BrC=1C=NC2=CC=C(C=C2C1)O | C9H6BrNO
reactant | sodium iodide | 1.34 g | [I-].[Na+]
reactant | N,N,N′,N′-tetramethyl-ethane-1,2-diamine | 0.1 ml | CN(CCN(C)C)C | C6H16N2
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 6.5 ml | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 0.09 g | [Cu](I)I
product | 3-iodo-6-hydroxyquinoline | IC=1C=NC2=CC=C(C=C2C1)O | C9H6INO
